US04476056
A solution of 2.0 g (5.3 mmol) of (2E,4E,6E,8E)-3,7-dimethyl-9-[2,3,6-trimethyl-4-(trifluoromethoxy)phenyl]-nonatetraenoic acid in 60 ml of dry THF and 1.6 g of (10 mmol) of carbonyldiimidazole was heated to 35°-40° C. for 0.5 hour. The reaction mixture was cooled to -10° C. and excess gaseous ethyl amine was introduced. The resulting mixture was stirred for 1 hour at 23° C., diluted with 100 ml of hexane, and filtered through silica gel (200 g, 1:1 ethyl acetate-hexane as elutant). Further chromatographic purification (silicia gel, 5 to 10% ethyl acetate in methylene chloride) gave a yellow solid which, after recrystallization (ethyl acetate-hexane), yielded 1.4 g of N-ethyl(2E,4E,6E,8E)-3,7-dimethyl-9-[2,3,6-trimethyl-4-(trifluoromethoxy)phenyl]-nonatetraenamide; mp 198°-200° C.

reactant | (2E,4E,6E,8E)-3,7-dimethyl-9-[2,3,6-trimethyl-4-(trifluoromethoxy)phenyl]-nonatetraenoic acid | 5.3 mmol, 2.0 g | C\C(=C/C(=O)O)\C=C\C=C(\C=C\C1=C(C(=C(C=C1C)OC(F)(F)F)C)C)/C | C21H23F3O3
reactant | carbonyldiimidazole | 10 mmol, 1.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ethyl amine | C(C)N | C2H7N
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | hexane | 100 ml | CCCCCC | C6H14
product | N-ethyl(2E,4E,6E,8E)-3,7-dimethyl-9-[2,3,6-trimethyl-4-(trifluoromethoxy)phenyl]-nonatetraenamide | 1.4 g | C(C)NC(\C=C(\C=C\C=C(\C=C\C1=C(C(=C(C=C1C)OC(F)(F)F)C)C)/C)/C)=O | C23H28F3NO2
